US04707479
(a) Acetoacetic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3yl)-phenyl]-amide
20 g (0.106 mole) of 3-(4-aminophenyl)-6-oxo-1,4,5,6-tetrahydropyridazine in 250 ml of dimethylformamide are stirred with 9.47 g (0.113 moles) of diketene for 12 hours at room temperature. After the mixture has been concentrated, the residue is boiled up with 100 ml of ethanol, and the product is filtered off after cooling.

reactant | 3-(4-aminophenyl)-6-oxo-1,4,5,6-tetrahydropyridazine | 0.106 mole, 20 g | NC1=CC=C(C=C1)C1=NNC(CC1)=O | C10H11N3O
reactant | diketene | 0.113 moles, 9.47 g | C=C1CC(=O)O1 | C4H4O2
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | Acetoacetic acid N-[4-(6-oxo-1,4,5,6-tetrahydropyridazin-3yl)-phenyl]-amide | O=C1CCC(=NN1)C1=CC=C(C=C1)NC(CC(=O)C)=O | C14H15N3O3
